US05660814
In a solution of 43.9 g of DMF (0.6 mol) in 700 ml of CH2Cl2, kept at a temperature of 5° C. and under nitrogen atmosphere, 109.2 g of oxalyl chloride (0.86 mol) are dropwise added, obtaining a white precipitate. After 1 h, the solvent and the oxalyl chloride excess are removed under reduced pressure. The residue is suspended in 1000 ml of THF and 500 ml of MeCN and in the suspension kept at a temperature of 5° C., a solution of 130 g of 6-[(chloroacetyl)amino]hexanoic acid (prepared according to the procedure described in J. Chromatography, 1984, 292, 369-382) (0.63 mol) is dropwise added and 47.5 g of pyridine (0.6 mol) in 500 ml of THF. The reaction mixture is then heated to 40° C. for 2 h. A solution of 171.3 g of 3-amino-α-ethyl-2,4,6-triiodobenzenepropanoic acid (CAS RN 96-83-3) (0.30 mol) in 300 ml of THF is slowly added and the whole is heated for 3 h at reflux. The solution is concentrated and the residue is dissolved in 500 ml of H2O. The pH is adjusted to 8 with 620 ml of 2N NaOH (1.24 mol) and THF is evaporated under reduced pressure. The aqueous solution is extracted 3 times with 200 ml portions of CH2Cl2. The organic phases are collected and washed with 200 ml of H2O at pH 8. The aqueous phases are acidified with 200 ml of 37% HCl yielding a precipitate, which is filtered. 181 g of 3-[[6-[(chloroacetyl)amino]-1-oxohexyl]amino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid (0.238 mol) are obtained.

reactant | DMF | 0.6 mol, 43.9 g | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.86 mol, 109.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 0.6 mol, 47.5 g | N1=CC=CC=C1 | C5H5N
reactant | 3-amino-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 0.30 mol, 171.3 g | NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C11H12I3NO2
reactant | NaOH | 1.24 mol, 2N, 620 ml | [OH-].[Na+]
solvent | CH2Cl2 | 700 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 3-[[6-[(chloroacetyl)amino]-1-oxohexyl]amino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 0.238 mol, 181 g, Yield: 79% | ClCC(=O)NCCCCCC(=O)NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C19H24ClI3N2O4
